US05424450
A mixture of potassium carbonate (83 mg, 2 eq.), 2-propyl-4-(diphenylmethylene)-1H-imidazol-5(4H)-one (90 mg, 0.3 mmol), and 4'-bromomethyl-2-(triphenyl methyl tetrazol-5-yl)biphenyl (0.21 g, 1.2 eq.) in dimethyl formamide (10 mL) was allowed to stir at room temperature for 2 days. The solvent was in vacuo, the residue was dissolved in CH2Cl2 and washed with water and brine. The organic layer was dried over MgSO4 and concentrated. The crude mixture was chromatographed over silica gel eluting with ethyl acetate-hexane (1:4) to give 3,5-dihydro-5-(diphenylmethylene)-2-propyl-3-[(2'-(triphenyl methyl tetrazol-5-yl)(1,1'-biphenyl)-4-yl)methyl]-4H-imidazol-4-one (100 mg). M.S. m/e 767 (M+ +H) NMR (CDCl3 /TMS) δ0.90 (m, 3H, CH3), 1.65 (m, 2H, CH2), 2.38 (m, 2H, CH2), 4.62 (s, 2H, CH2), 6.88-7.50 (m, 30H, Harom), 7.61 (m, 2H, Harom), 7.90 (d, 1H, Harom). The above compound was detritylated following the procedure described in Example 2C, to give 61 mg of the desired product. M.S. m/e 524 (M+ +H) NMR (CDCl3 /TMS) d 1.01 (t, 3H, CH3), 1.78 (m, 2H, CH2), 2.49 (t, 2H, CH2), 4.75 (s, 2H, CH2), 7.12-7.41 (m, 15H, Harom), 7.58 (m,2H, Harom), 8.10 (d, 1H, Harom).

reactant | potassium carbonate | 83 mg, 2 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | 2-propyl-4-(diphenylmethylene)-1H-imidazol-5(4H)-one | 0.3 mmol, 90 mg | C(CC)C=1NC(C(N1)=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C19H18N2O
reactant | 4'-bromomethyl-2-(triphenyl methyl tetrazol-5-yl)biphenyl | 0.21 g, 1.2 eq. | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C1N(N(N(N1C)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C33H29BrN4
solvent | dimethyl formamide | 10 mL | CN(C=O)C | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3,5-dihydro-5-(diphenylmethylene)-2-propyl-3-[(2'-(triphenyl methyl tetrazol-5-yl)(1,1'-biphenyl)-4-yl)methyl]-4H-imidazol-4-one | 100 mg | C1(=CC=CC=C1)C(=C1C(N(C(=N1)CCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1N(N(N(N1C)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)=O)C1=CC=CC=C1 | C52H46N6O
